US08252797B2
A mixture of solution of 1,3-dipropyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (600 mg, 1.38 mmol), bromo acetic acid (289 mg, 2.08 mmol) and K2CO3 (575 mg, 4.16 mmol) in acetone (10 ml) was heated at 80° C. for 3 hrs. The reaction mixture was filtered through celite and washed with acetone. The organic layer was concentrated and the residue obtained was purified by column chromatography to obtain {4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-acetic acid (420 mg, 61%) as white solid.

reactant | 1,3-dipropyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 1.38 mmol, 600 mg | C(CC)N1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1)CCC)=O | C20H32N6O3Si
reactant | bromo acetic acid | 2.08 mmol, 289 mg | BrCC(=O)O | C2H3BrO2
reactant | K2CO3 | 4.16 mmol, 575 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | {4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-acetic acid | 420 mg, 61% | O=C1N(C(C=2N(C(=NC2N1CCC)C=1C=NN(C1)CC(=O)O)COCC[Si](C)(C)C)=O)CCC | C22H34N6O5Si
